US04739070
Preparation of 3,5,6-trichloro-2-(dichloromethyl)pyridine (Cpd. 1 of table)
2,3,5,6-Tetrachloropyridine (1.1 g, 0.005 mole) was combined with 5 ml of N-methylpyrrolidine and 5 ml (about 0.062 mole) of chloroform in a reaction vessel and to the resulting solution 6 g of 50 percent aqueous sodium hydroxide (0.075 mole) was added with stirring. After 30 minutes the title compound was shown to be present in the reaction mixture by gas chromatography at approximately 15 percent conversion.

reactant | 2,3,5,6-Tetrachloropyridine | 0.005 mole, 1.1 g | ClC1=NC(=C(C=C1Cl)Cl)Cl | C5HCl4N
reactant | N-methylpyrrolidine | 5 ml | CN1CCCC1 | C5H11N
reactant | chloroform | about 0.062 mole, 5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 0.075 mole, 6 g | [OH-].[Na+]
product | 3,5,6-trichloro-2-(dichloromethyl)pyridine | ClC=1C(=NC(=C(C1)Cl)Cl)C(Cl)Cl | C6H2Cl5N
